US04775675
5,5-Dimethyl-2-(3-pyridyl)-thiazolidine-4(S)-carboxylic acid
0.94 ml (1.07 g, 10 mmoles) of pyridine-3-aldehyde is added to a solution containing 1.5 g (10 mmoles) of D-penicillamine in 30 ml of water at room temperature while stirring. After 10 minutes, the title product begins to crystallize. The mixture is stirred for 1 additional hour, the precipitate is filtered, washed with water and dried. The thus-obtained crude product is dissolved in hot water, filtered and cooled down to give the crystalline title compound in a yield of 1.9 g (79.7%), m.p.: 164°-165° C., [α]D20 =+145° (c=0.556, dimethylsulphoxide).

reactant | pyridine-3-aldehyde | 10 mmoles, 0.94 ml, 1.07 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | D-penicillamine | 10 mmoles, 1.5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | water | 30 ml | O | H2O
product | 5,5-Dimethyl-2-(3-pyridyl)-thiazolidine-4(S)-carboxylic acid | CC1([C@@H](NC(S1)C=1C=NC=CC1)C(=O)O)C | C11H14N2O2S
